US07253192B2
F] Methanesulfonic acid 1-[3-(4-trifluoromethoxy-phenyl)-prop-2-ynyl]-cyclobutylmethyl ester
In analogy to the procedure described in example 1G], {1-[3-(4-trifluoromethoxy-phenyl)-prop-2-ynyl]-cyclobutyl}-methanol and methanesulfonyl chloride gave the title compound as yellow oil.

reactant | {1-[3-(4-trifluoromethoxy-phenyl)-prop-2-ynyl]-cyclobutyl}-methanol | FC(OC1=CC=C(C=C1)C#CCC1(CCC1)CO)(F)F | C15H15F3O2
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | Methanesulfonic acid 1-[3-(4-trifluoromethoxy-phenyl)-prop-2-ynyl]-cyclobutylmethyl ester | FC(OC1=CC=C(C=C1)C#CCC1(CCC1)COS(=O)(=O)C)(F)F | C16H17F3O4S
